US06479531B1
Isophthalic acid mono methyl ester (200 mg, 1.10 mmol) was heated at reflux for 15 min in the mixture of thionyl chloride (2 ml) and DMF (cat.). The solvent was evaporated in vacuo, the residue was dissolved in DCM (5mi) and the solvent was evaporated to afford 3-chlorocarbonyl-benzoic acid methyl ester. To a solution of the product of step b above (435 mg, 1.00 mmol) and triethylamine (280 μl, 2.00 mmol) in DCM (10 ml) was added a solution of the previously prepared 3-chlorocarbonyl-benzoic acid methyl ester in DCM (2 ml). The reaction mixture was stirred at room temperature for 1h. It was washed with 5% aqueous potassium hydrogen sulfate (10 ml) and water (10 ml), dried (MgSO4) and the solvent was evaporated. The residue was purified by flash column chromatography (silica, DCM/ethyl acetate 4:1) to afford the product as a white solid (310mg, 52%). 1H NMR (300 MHz, CDCl3) 8.53 (1H, s), 8.18 (2H, m), 8.07 (1H, d), 7.51 (1H, t), 7.30-7.21 (4H, m), 3.95 (3H, s), 2.91 (2H, m), 2.20 (3H, s), 1.94 (3H, br s), 1.66 (6H, m), 1.5 (6H, s), 1.38 (2H, m), 1.21 (9H, s).

reactant | Isophthalic acid mono methyl ester | 1.10 mmol, 200 mg | COC(C1=CC(C(=O)O)=CC=C1)=O | C9H8O4
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chlorocarbonyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C(=O)Cl)=O | C9H7ClO3
